data/mechanisms/records/IMS8-EQ8.21a.json
{"mechanism_id": "IMS8-EQ8.21a", "species": [{"species_id": "steroid_molecular_ion", "mapped_smiles": "[C:1](=[O:2])([CH3:3])[N:4]([CH3:5])[CH:6]1[CH:7]([1H:12])[CH2:8][C:9]2([CH3:13])[CH:10]([CH2:11]1)[CH2:14][CH2:15][CH:16]1[CH:17]2[CH2:18][CH2:19][C:20]2([CH3:22])[CH:21]1[CH2:23][CH2:24][CH:25]2[CH2:26][NH2+:27]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "steroid_ene_aminium_radical_cation", "mapped_smiles": "[CH:6]1=[CH:7][CH2:8][C:9]2([CH3:13])[CH:10]([CH2:11]1)[CH2:14][CH2:15][CH:16]1[CH:17]2[CH2:18][CH2:19][C:20]2([CH3:22])[CH:21]1[CH2:23][CH2:24][CH:25]2[CH2:26][NH2+:27]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "n_methylacetamide_enol", "mapped_smiles": "[C:1]([O:2][1H:12])([CH3:3])=[N:4][CH3:5]", "role": "intermediate", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["steroid_molecular_ion"]}, {"state_id": "state_complex", "species_ids": ["steroid_ene_aminium_radical_cation", "n_methylacetamide_enol"]}], "steps": [{"step_id": "step_gamma_H_beta_cleavage", "from_state": "state_precursor", "to_state": "state_complex", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 12]}, "target": {"type": "bond", "atom_maps": [2, 12]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_21a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_H_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 154, "equation": "8.21", "figure": null, "panel": "top-left -> top-right", "section": "8 / Detailed Mechanisms of Ion Fragmentation (remote-group interactions in the steroid molecular ion; Longevialle 1984, 1987)"}, "confidence": 0.8, "curator_note": "Step 1 of Equation 8.21, the 'gamma-H/beta-cleavage rearrangement of the 3-acetamido group' (text names it verbatim). The 3-(N-methylacetamido) steroid molecular ion undergoes a concerted McLafferty-type retro-ene: the amide carbonyl O (map2) abstracts the gamma-H (map12) borne by the ring carbon C2 (map7), the C=O pi shifts to C=N, and the amide N4-C3(ring, map6) bond is beta-cleaved, generating a ring C2=C3 double bond (map6=map7) and expelling the neutral enol of N-methylacetamide, H3C-C(OH)=N-CH3 (maps 1,2,3,4,5,12). ARC COUNT (convention D): the book draws 3 curved arcs on the acetamido group and all three are full (double-barbed) two-electron arrows -- (i) the C2-H12 bond curving to the carbonyl O (H transfer, encoded move 1: bond(7,12)->bond(2,12)); (ii) the N4-C6 amide bond curving up to form the ring C2=C3 double bond (beta-cleavage, encoded move 2: bond(4,6)->bond(6,7)); (iii) the C1=O2 pi curving to the C1-N4 bond to form C1=N4 of the enol (encoded move 3: bond(1,2)->bond(1,4)). All three moves are drawn; none is implicit. CHARGE/RADICAL (convention B): the book draws the reactant only as a bracketed [M]+. with the +. on the whole molecule and does NOT localize it; this record localizes the charge and odd electron on the remote 20-amino nitrogen (map27, drawn -CH2-NH2, n-ionized to the aminium radical cation -CH2-NH2+.), because that is the lowest-IE site and it is required to produce the alpha-cleavage drawn later on the same page (Eq 8.21 step 3 / record IMS8-EQ8.21b). Consequently the acetamido rearrangement here is an even-electron process on the neutral, remote portion of the radical cation -- hence three 2-electron arrows, no fishhooks. SUBSTRATE (convention F): the book does not name the exact steroid (only '3-acetamido' and '20-amino' on an androstane/gonane skeleton, from Longevialle 1984/1987); this record instantiates 3-(N-methylacetamido)-20-aminomethyl-androstane (flat, stereochemistry omitted; C23H40N2O+., m/z 360.3130), a curator-chosen realization of the drawn skeleton. This is a molecular-ion rearrangement (ion-neutral / ion-dipole complex chemistry); the enol 'remains in the vicinity of the ion' as an ion-neutral complex rather than separating -- hence both fragments are grouped in one product state and no fragment m/z is printed for this step."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 360.313, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
